US04837333
Utilising the procedure described in Example 1c and employing α-(4,4-dimethylpentyl)-1H-imidazole-1-ethanol in lieu of α-[[(4-methoxyphenyl)methoxy]methyl]-1H-imidazole-1-ethanol yielded a crude product which was purified by column chromatography (silica gel, chloroform) to yield 6,6-dimethyl-1-(1H-imidazol-1-yl)-2-heptanone as a colourless crystalline solid, having a melting point of 45°-46° C. (ether-hexane) and the following structural characteristics:

reactant | α-(4,4-dimethylpentyl)-1H-imidazole-1-ethanol | CC(CCCC(CN1C=NC=C1)O)(C)C | C12H22N2O
reactant | α-[[(4-methoxyphenyl)methoxy]methyl]-1H-imidazole-1-ethanol | COC1=CC=C(C=C1)COCC(CN1C=NC=C1)O | C14H18N2O3
product | 6,6-dimethyl-1-(1H-imidazol-1-yl)-2-heptanone | CC(CCCC(CN1C=NC=C1)=O)(C)C | C12H20N2O
